US04208413
To a stirred suspension of 3,5-diamino-6-chloro-N-[(ethoxycarbonylamino)iminomethyl]-2-pyrazinecarboxamide hemihydrate (3.11 g., 0.01 mole) in pyridine (25 ml.) is added methyl chloroformate (0.5 ml). The reaction mixture is stirred at 25° C. for 2 hours, filtered and heated with water (50 ml.) to give 3,5-diamino-6-chloro-N-[(ethoxycarbonylamino)(methoxycarbonylamino)methylene]-2-pyrazinecarboxamide.

reactant | 3,5-diamino-6-chloro-N-[(ethoxycarbonylamino)iminomethyl]-2-pyrazinecarboxamide hemihydrate | 0.01 mole, 3.11 g | O.NC=1C(=NC(=C(N1)N)Cl)C(=O)NC=NNC(=O)OCC.NC=1C(=NC(=C(N1)N)Cl)C(=O)NC=NNC(=O)OCC
reactant | methyl chloroformate | 0.5 ml | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-diamino-6-chloro-N-[(ethoxycarbonylamino)(methoxycarbonylamino)methylene]-2-pyrazinecarboxamide | NC=1C(=NC(=C(N1)N)Cl)C(=O)N=C(NC(=O)OC)NC(=O)OCC | C11H14ClN7O5
